US06696437B1
c) 2-(2-(3-(N,N-Diethylamino)prop-1-ylamino)pyridin-4-yl)benzimidazole-4-carboxamide
0.36 g (1.25 mmol) of product 24b was introduced into 10 ml of a mixture of dimethylformamide and pyridine (1:1) and stirred for 15 minutes. After addition of 0.21 g (1.31 mmol) of carbonyldiimidazole, the reaction mixture was stirred at room temp. for 1 hour. A solution of 0.28 g (1.25 mmol) of 2,3-diaminobenzamide in 5 ml of dimethylformamide/pyridine was then added. The reaction mixture was stirred at 50° C. for 2 hours. The residue after concentration of the reaction mixture in vacuo was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic phase was separated off, dried over magnesium sulfate and concentrated in vacuo. The residue was stirred in 20 ml of glacial acetic acid at 100° C. for 1 hour. The residue after concentration of the reaction mixture in vacuo was purified by flash chromatography (toluene/tetrahydrofuran/methanol, 4/1/1+2.5% triethylamine). The product obtained in this way was dissolved in a little acetone. The precipitate obtained with diethyl ether was separated off and dried at 40° C. in vacuo. 0.22 g of yellow powder was obtained.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | carbonyldiimidazole | 1.31 mmol, 0.21 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,3-diaminobenzamide | 1.25 mmol, 0.28 g | NC1=C(C(=O)N)C=CC=C1N | C7H9N3O
reactant | dimethylformamide pyridine | 5 ml | CN(C=O)C.N1=CC=CC=C1
solvent | acetone | CC(=O)C | C3H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(2-(3-(N,N-Diethylamino)prop-1-ylamino)pyridin-4-yl)benzimidazole-4-carboxamide | 0.22 g | C(C)N(CC)CCCNC1=NC=CC(=C1)C=1NC2=C(N1)C=CC=C2C(=O)N | C20H26N6O
